US08012966B2
A stirred solution of 2-(2-amino-ethyl)-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester, lithium hydroxide monohydrate (840 mg, 20 mmol) in ethanol (20 ml) was heated to reflux under an argon atmosphere for 3 hours. The mixture was added with cold water (150 ml), stirred for 10 minutes, extracted with dichloromethane:methanol=5:1 (50 ml×7), washed with brine, dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The crude product was recrystallized from dichloromethane and methanol to give 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (280 mg, 38.9%) as a red solid.

reactant | 2-(2-amino-ethyl)-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC=C1C1=CC=CC=C1)CCN | C15H18N2O2
reactant | lithium hydroxide monohydrate | 20 mmol, 840 mg | O.[OH-].[Li+]
reactant | water | 150 ml | O | H2O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 280 mg, 38.9% | O=C1NCCC2=C1C(=C(N2)C=O)C2=CC=CC=C2 | C14H12N2O2
